US07678818B2
N-(4-tert-butylbenzyl)-2-chloro-N-[2-(3,4-dichlorophenyl)-ethyl]-3-fluoro-6-methylaminobenzamide
A mixture of 5-chloro-6-fluoro-1-methyl-1H-benzo[d][1,3]oxazine-2,4-dione (83 mg, 0.36 mmol) and (4-tert-butylbenzyl)-[2-(3,4-dichloro-phenyl)-ethyl]-amine (122 mg, 0.36 mmol) in DMF (2 ml) was heated to 140° C. for 2 h and then at 110° C. overnight. The reaction mixture was then cooled to RT and the mixture was diluted with ethyl acetate and washed with water and brine. The organic layer was dried (MgSO4), filtered and concentrated in vacuo to give a residue which was purified by flash column chromatography to give the desired product (51 mg, 27%) as a white solid. MS (ISP) 521.9 (M+H)+.

reactant | 5-chloro-6-fluoro-1-methyl-1H-benzo[d][1,3]oxazine-2,4-dione | 0.36 mmol, 83 mg | ClC1=C(C=CC=2N(C(OC(C21)=O)=O)C)F | C9H5ClFNO3
reactant | (4-tert-butylbenzyl)-[2-(3,4-dichloro-phenyl)-ethyl]-amine | 0.36 mmol, 122 mg | C(C)(C)(C)C1=CC=C(CNCCC2=CC(=C(C=C2)Cl)Cl)C=C1 | C19H23Cl2N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-tert-butylbenzyl)-2-chloro-N-[2-(3,4-dichlorophenyl)-ethyl]-3-fluoro-6-methylaminobenzamide | 51 mg, 27% | C(C)(C)(C)C1=CC=C(CN(C(C2=C(C(=CC=C2NC)F)Cl)=O)CCC2=CC(=C(C=C2)Cl)Cl)C=C1 | C27H28Cl3FN2O
